US04544670
The Preparation of 1-(2,6-Dichlorocinnamoyl)-3-Isobutylguanidine Hydrochloride
A mixture of 7.62 g of a 50% aqueous sodium hydroxide solution, 15.65 g isobutylguanidine sulfate and 120 ml of tetrahydrofuran is stirred for 45 minutes. 12 g of anhydrous sodium sulfate are added to the mixture and stirring continued for 40 minutes. A solution of 2,6-dichlorocinnamoyl chloride (11.22 g) in 40 ml of anhydrous tetrahydrofuran is added dropwise, and the reaction mixture stirred overnight. The yellow reaction mixture is filtered, concentrated in vacuo and the resulting yellow oil partitioned between 100 ml of methylene chloride and 150 ml of H2O. The aqueous layer is extracted with methylene chloride, the combined organic extract dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to a yellow oil. The resulting oil is dissolved in hot acetonitrile/methanol, filtered and evaporated on a hot plate. A white solid is collected, M.P. 178°-180° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | isobutylguanidine sulfate | 15.65 g | S(=O)(=O)(O)O.C(C(C)C)NC(=N)N
reactant | sodium sulfate | 12 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,6-dichlorocinnamoyl chloride | 11.22 g | ClC1=C(C=CC(=O)Cl)C(=CC=C1)Cl | C9H5Cl3O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 1-(2,6-Dichlorocinnamoyl)-3-Isobutylguanidine Hydrochloride | Cl.ClC1=C(C=CC(=O)NC(=N)NCC(C)C)C(=CC=C1)Cl | InChI=1S/C14H17Cl2N3O.ClH/c1-9(2)8-18-14(17)19-13(20)7-6-10-11(15)4-3-5-12(10)16;/h3-7,9H,8H2,1-2H3,(H3,17,18,19,20);1H
